* C:\Users\Shannon\Dropbox\moog\PBJ_New\spice\sigmon.asc
V1 N001 0 12
V4 0 N009 12
R11 N005 N004 100K
R13 N006 N005 330K
V5 N004 0 SINE(0 .3 2 0 0) AC 1
XU1 0 N005 N001 N009 N006 AD712
D1 N008 0 D
R1 N006 N008 1K
D2 N007 0 D
R2 N003 N007 1K
R3 N003 N002 200K
XU2 N004 N002 N001 N009 N003 AD712
R4 0 N002 91K
R5 N001 N008 20K
R6 N001 N007 20K
.model D D
.lib C:\Users\Shannon\Documents\LTspiceXVII\lib\cmp\standard.dio
.tran 0 2 1 .1
.lib ADI1.lib
.backanno
.end
